US07622466B2
5-(3-Pyrrolidin-1-yl-propoxy)-1H-pyrrolo[2,3-b]pyridine-2-carboxylic Acid 4-fluoro-benzylamide
The title compound was synthesized in analogy to example 1 from lithium 5-(3-pyrrolidin-1-yl-propoxy)-1H-pyrrolo[2,3-b]pyridine-2-carboxylate, O-(benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium tetrafluoroborate, 4-fluorobenzylamine and N,N-diisopropylethylamine to give the desired product as a light yellow solid (29%).

reactant | lithium 5-(3-pyrrolidin-1-yl-propoxy)-1H-pyrrolo[2,3-b]pyridine-2-carboxylate | N1(CCCC1)CCCOC=1C=C2C(=NC1)NC(=C2)C(=O)[O-].[Li+]
reactant | O-(benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium tetrafluoroborate | F[B-](F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | 4-fluorobenzylamine | FC1=CC=C(CN)C=C1 | C7H8FN
reactant | N,N-diisopropylethylamine | C(C)(C)N(C(C)C)CC | C8H19N
product | 5-(3-Pyrrolidin-1-yl-propoxy)-1H-pyrrolo[2,3-b]pyridine-2-carboxylic Acid 4-fluoro-benzylamide | 29% | FC1=CC=C(CNC(=O)C2=CC=3C(=NC=C(C3)OCCCN3CCCC3)N2)C=C1 | C22H25FN4O2
